US06953806B2
In analogy to the procedure described in example 3.4, trans-N-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide was treated with methanesulfonyl chloride to yield trans-methanesulfonic acid 2-(4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexyl)-ethyl ester as colorless solid, MS: 358 (MH+).

reactant | trans-N-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | OCC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C17H24F3NO3S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-methanesulfonic acid 2-(4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexyl)-ethyl ester | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C[C@@H]1CC[C@H](CC1)CCOS(=O)(=O)C | C18H26F3NO5S2
